US04976773
2-(4-(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxypropionic acid chloride hydrochloride (0.7 g) and 4-(4-nitrophenoxy)phenol (0.5 g) were dissolved in dry tetrahydrofuran (10 ml), and stirred with an addition of triethylamine (0.5 ml) at room temperature for 2 hours. After completion of the reaction, the solvent was evaporated under a reduced pressure and the residue was dissolved in methylene chloride (20 ml), followed by washing with 1N hydrochloric acid, water, saturated aqueous sodium hydrogen carbonate, water and saturated aqueous sodium chloride. After drying over anhydrous magnesium sulfate, the solvent was evaporated under a reduced pressure and the residue obtained was purified by medium pressure column chromatography by using silica gel, to obtain 4-(4-nitrophenoxy)phenyl 2-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionate (0.9 g) (oily product).

reactant | 4-(3-Chloro-5-trifluoromethyl-2-pyridyloxy)phenoxypropionic acid chloride hydrochloride | 0.7 g | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)Cl)C)C=C1
reactant | 4-(4-nitrophenoxy)phenol | 0.5 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9NO4
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-nitrophenoxy)phenyl 2-(4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenoxy)propionate | 0.9 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)OC2=CC=C(C=C2)OC2=CC=C(C=C2)[N+](=O)[O-])C)C=C1 | C27H18ClF3N2O7
